US05952321
To a solution of 1.64 gm (5.6 mmol) of 3,3-diethyl-4-(RS)-[4-(1-oxo-2-methoxyethyl) phenoxy]azetidin-2-one in 23 mL of dry DMF was added 78 mg (0.56 mmol) of powdered potassium carbonate and then 1.27 gm (6.8 mmol) of (R)-α-allyl-4-methyl-benzyl isocyanate, and the mixture was stirred for one hour. The solution was treated with 50 mL of water and was extracted with 100 mL of 50:50 hexanes: ethyl acetate, 80 mL of ethyl acetate and then 100 mL of hexanes: ethyl acetate. Each extract was washed with 10 mL of water and 10 mL of brine. The combined extracts were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography on 240 gm of silica with 4 L of 70:30 hexanes: ethyl acetate to give a small amount of higher Rf material (3,3-diethyl-1-[(R)-α-(allyl)-4-(methyl)benzylaminocarbonyl]-4-(S)-[4-(1-(oxo)-2-(methoxy) ethyl)phenoxy]azetidin-2-one) and a substantial amount of mixed fractions. The mixed fractions were purified by flash chromatography on 173 gm of silica eluting with 4 L of 75:25 hexanes:ethyl acetate, and the mixed cuts from that chromatography were fractionated again under the same conditions. The pooled fractions containing mostly desired product were subjected to a final purification by flash chromatography on 143 gm of silica eluting with 3 L of 98:2 methylene chloride: ethyl acetate to give 1.40 gm of product as an oil.

reactant | 3,3-diethyl-4-(RS)-[4-(1-oxo-2-methoxyethyl) phenoxy]azetidin-2-one | 5.6 mmol, 1.64 gm | C(C)C1(C(NC1OC1=CC=C(C=C1)C(COC)=O)=O)CC | C16H21NO4
reactant | potassium carbonate | 0.56 mmol, 78 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-α-allyl-4-methyl-benzyl isocyanate | 6.8 mmol, 1.27 gm | C(C=C)[C@H](C1=CC=C(C=C1)C)N=C=O | C12H13NO
reactant | water | 50 mL | O | H2O
solvent | DMF | 23 mL | CN(C)C=O | C3H7NO
product | 3,3-diethyl-1-[(R)-α-(allyl)-4-(methyl)benzylaminocarbonyl]-4-(S)-[4-(1-(oxo)-2-(methoxy) ethyl)phenoxy]azetidin-2-one | C(C)C1(C(N([C@H]1OC1=CC=C(C=C1)C(COC)=O)C(=O)N[C@@H](C1=CC=C(C=C1)C)CC=C)=O)CC | C28H34N2O5
